US07091199B1
Preparation of (4-methyl-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, 4-methylbenzylamine and acetonitrile essentially as described above in example 18. Purity by LC/MS (APCI)=100%, [M+H]+=365.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylbenzylamine | CC1=CC=C(CN)C=C1 | C8H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | (4-methyl-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | CC1=CC=C(CNCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=C1 | C21H20N2O2S
